US06455520B1
N-{3-[3-(4-methylpiperazin-1-ylmethyl)benzamido]-4-methylphenyl}-2-pyrrolidin-1-ylpyridine-4-carboxamide
Pyrrolidine (0.3 g) was added to a stirred mixture of N-{3-[3-(4-methylpiperazin-1-ylmethyl)benzamido]-4-methylphenyl}-2-chloropyridine-4-carboxamide (0.5 g) and DMSO (5 ml) and the mixture was stirred and heated to 120° C. for 16 hours. The resultant solution was cooled to ambient temperature and poured into water and extracted with methylene chloride. The organic phase was evaporated and the residue was purified by column chromatography on an isolute SCX ion exchange column using a 99:1 mixture of methanol and a saturated aqueous ammonium hydroxide solution as eluent. There was thus obtained the title compound (0.014 g); Mass Spectrum: M+H+513.

reactant | Pyrrolidine | 0.3 g | N1CCCC1 | C4H9N
reactant | N-{3-[3-(4-methylpiperazin-1-ylmethyl)benzamido]-4-methylphenyl}-2-chloropyridine-4-carboxamide | 0.5 g | CN1CCN(CC1)CC=1C=C(C(=O)NC=2C=C(C=CC2C)NC(=O)C2=CC(=NC=C2)Cl)C=CC1 | C26H28ClN5O2
reactant | DMSO | 5 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-{3-[3-(4-methylpiperazin-1-ylmethyl)benzamido]-4-methylphenyl}-2-pyrrolidin-1-ylpyridine-4-carboxamide | 0.014 g | CN1CCN(CC1)CC=1C=C(C(=O)NC=2C=C(C=CC2C)NC(=O)C2=CC(=NC=C2)N2CCCC2)C=CC1 | C30H36N6O2
